US07396844B1
Synthesis of methyl 6-(pyrrolidine-1-yl)nicotinate
2.6 g (11.1 mmol) of 5-bromo-2-(pyrrolidine-1-yl)pyridine was dissolved in 30 ml of dimethylformamide. 8.9 ml (220 mmol) of methanol, 3.06 ml (22 mmol) of triethylamine, 124 mg (0.5 mmol) of palladium (II) acetate and 2.7 g (11.1 mmol) of triphenylphosphine were added to the solution, and they were stirred in the presence of carbon monoxide at 70° C. overnight. After the treatment with ethyl acetate as the extractant in an ordinary manner, the crude product was obtained, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | 5-bromo-2-(pyrrolidine-1-yl)pyridine | 11.1 mmol, 2.6 g | BrC=1C=CC(=NC1)N1CCCC1 | C9H11BrN2
reactant | methanol | 220 mmol, 8.9 ml | CO | CH4O
reactant | triethylamine | 22 mmol, 3.06 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 11.1 mmol, 2.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon monoxide | [C]=O | CO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | 0.5 mmol, 124 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-(pyrrolidine-1-yl)nicotinate | N1(CCCC1)C1=NC=C(C(=O)OC)C=C1 | C11H14N2O2
